US07504403B2
2-Amino-3-methyl-6-phenyl-3H-pyrimidin-4-one.
A mixture of KOH (1.22 g, 22 mmol), MeI (6.85 g, 48 mmol), and 2-amino-6-phenyl-3H-pyrimidin-4-one (2.62 g, 14 mmol) in EtOH (130 mL) was stirred at room temperature in a stoppered 250 mL roundbottom flask for 3 days. An additional 6.85 g (48 mmol) MeI was added and stirring was continued for 1 day. The solvent was removed under vacuum and the residue was dissolved in H2O (35mL), warmed to 50° C., and 1N HCl was added dropwise until the solid dissolved completely. The solution was cooled to room temperature, made slightly basic with saturated NaHCO3, and the resulting white solid was filtered and dried under vacuum. M+1: 202.

reactant | KOH | 22 mmol, 1.22 g | [OH-].[K+]
reactant | MeI | 48 mmol, 6.85 g | CI | CH3I
reactant | 2-amino-6-phenyl-3H-pyrimidin-4-one | 14 mmol, 2.62 g | NC1=NC(=CC(N1)=O)C1=CC=CC=C1 | C10H9N3O
reactant | MeI | 48 mmol, 6.85 g | CI | CH3I
solvent | EtOH | 130 mL | CCO | C2H6O
product | 2-Amino-3-methyl-6-phenyl-3H-pyrimidin-4-one | NC1=NC(=CC(N1C)=O)C1=CC=CC=C1 | C11H11N3O
